US04426385
Part A: Preparation of 4-(4-chloro-5,6,7,8-tetrahydro-1-naphthoxy)-3,5-dimethyl-1-nitrobenzene
To a solution of 35.62 g (0.19 mole) of 4-chloro-3,5-dimethyl-1-nitrobenzene and 38.54 g (0.21 mole) of 4-chloro-5,6,7,8-tetrahydro-1-naphthol in 300 mL of dry DMF under an atmosphere of nitrogen and at room temperature was added 29.16 g (0.21 mole) of anhydrous potassium carbonate. The resulting reaction mixture was heated to 140° C. (internal). The reaction mixture was then heated between 140° and 150° C. for 40 hrs. The reaction mixture was then cooled to room temperature. The DMF was removed on a rotary evaporator in vacuo. The remaining dark brown semi-solid was dissolved in 500 mL of hot toluene and filtered. The collected solids were thoroughly washed with hot toluene. The toluene washings were combined with the toluene filtrate and the solvents removed to afford 34.8 g of dark brown solid. Recrystallization from hot hexane containing a little ethylene acetate along with the use of decolorizing carbon afforded 22.04 g of pale yellow solid; m.p. 176° -179° C. NMR (CDCl3): δ1.7-2.0 (m, 4H), 2.20 (S, 6H), 2.7-3.0 (m, 4H), 5.95 (d, J=9 Hz, 1H), 6.95 (d, J=9 Hz, 1H), 8.02 (S, 2H).

reactant | 4-chloro-3,5-dimethyl-1-nitrobenzene | 0.19 mole, 35.62 g | ClC1=C(C=C(C=C1C)[N+](=O)[O-])C | C8H8ClNO2
reactant | 4-chloro-5,6,7,8-tetrahydro-1-naphthol | 0.21 mole, 38.54 g | ClC1=CC=C(C=2CCCCC12)O | C10H11ClO
reactant | potassium carbonate | 0.21 mole, 29.16 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 4-(4-chloro-5,6,7,8-tetrahydro-1-naphthoxy)-3,5-dimethyl-1-nitrobenzene | 34.8 g | ClC1=CC=C(C=2CCCCC12)OC1=C(C=C(C=C1C)[N+](=O)[O-])C | C18H18ClNO3
